US04280835
3-Chloro-4-(2-naphthyloxy)nitrobenzene (14.8 g) and platinum dioxide (0.1 g) were suspended in a mixture of benzene and ethanol (1:1) (200 ml), and hydrogenation was carried out until 3.2 liters of hydrogen were absorbed. After removal of the solvent from the reaction mixture by distillation under reduced pressure, the residue was distilled in vacuo to give 3-chloro-4-(2-naphthyloxy)aniline (8 g) as a fraction boiling at 173° to 198° C./0.2 to 0.3 mmHg. M.P., 67°-69° C.

reactant | 3-Chloro-4-(2-naphthyloxy)nitrobenzene | 14.8 g | ClC=1C=C(C=CC1OC1=CC2=CC=CC=C2C=C1)[N+](=O)[O-] | C16H10ClNO3
reactant | hydrogen | 3.2 liters | [H][H] | H2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | platinum dioxide | 0.1 g | [Pt](=O)=O
product | 3-chloro-4-(2-naphthyloxy)aniline | 8 g | ClC=1C=C(N)C=CC1OC1=CC2=CC=CC=C2C=C1 | C16H12ClNO
